* Id-Vd sweep Vgs=0.7500V
* Model: 3D_gaa_Si | Corner: hot
.option gmin=1e-20 post=2 measdgt=8
.temp 85.0
.include 'build/spectre_compat/3D_gaa_Si_spectre_43e1c1d004a7.inc'
Mn1 d g s s nfet l=1.000e-07 nfin=1
* Bulk reference for bulkmod=0
* Bulk net tied to: s

Vs s 0 0
Vd d 0 0
Vg g 0 0.750000
.dc Vd 0 0.750000 0.007500
.print dc i(Vd) v(d)
.measure dc ron param='abs(v(d)/i(Vd))'
.end
